US05114940
A solution of 2-fluoroaniline (ex. Aldrich) (3 g) in pyridine (20 ml) was treated at 0° with 3-ethoxyacryloyl chloride (3.64 g) (Prepared according to Paul et al, U..S. Pat. No. 2,768,174, (1956)). After 30 minutes at 0°-10° the reaction mixture was partitioned between ether and water and worked-up in conventional fashion. Chromatography on silica (ether : hexane, 1:1) gave N-(2-fluorophenyl)-3-ethoxyacrylamide (1 g). The latter was added in portions to conc. sulphuric acid (15 ml) at room temperature. After stirring overnight the mixture was poured onto ice-water. The resultant cream precipitate was collected and dried in vacuo to give 2-hydroxy-8-fluoroquinoline. This was converted to 2-chloro-8-fluoroquinoline by anlogy with Example IV.

reactant | 2-fluoroaniline | 3 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | 3-ethoxyacryloyl chloride | 3.64 g | C(C)OC=CC(=O)Cl | C5H7ClO2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-fluorophenyl)-3-ethoxyacrylamide | 1 g | FC1=C(C=CC=C1)NC(C=COCC)=O | C11H12FNO2
